US04232037
Example 7. N-Ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine hydrochloride
30 ml of thionyl chloride is added to 17.6 g (0.067 mol) of 3-bromo-2,6-dimethoxybenzoic acid. The mixture is heated on a steam bath for 30 minutes. To the solution is added 50 ml of toluene. The solvent and excess thionyl chloride is evaporated at reduced pressure. The residue is dissolved in 50 ml of dry methyl ethyl ketone. The solution is added dropwise while stirring to 9.23 g (0.072 mol) of 2-(aminomethyl)-1-ethylpyrrolidine in 50 ml of methyl ethyl ketone. After stirring for 30 minutes at room temperature 150 ml of ethyl ether is added. The obtained precipitate is filtered off, washed with ether and recrystallized twice from ethanol-isopropyl ether. Yield: 21.0 g, m.p. 182°-84° C. (first recrystallization). m.p. 184°-85° C. (second recrystallization).

reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-bromo-2,6-dimethoxybenzoic acid | 0.067 mol, 17.6 g | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(aminomethyl)-1-ethylpyrrolidine | 0.072 mol, 9.23 g | NCC1N(CCC1)CC | C7H16N2
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-Ethyl-2-(3-bromo-2,6-dimethoxybenzamidomethyl)pyrrolidine hydrochloride | Cl.C(C)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | InChI=1S/C16H23BrN2O3.ClH/c1-4-19-9-5-6-11(19)10-18-16(20)14-13(21-2)8-7-12(17)15(14)22-3;/h7-8,11H,4-6,9-10H2,1-3H3,(H,18,20);1H
